US09193744B2
A solution of (3R,4aS,12bS,E)-2-benzylidene-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3-ol; compound with (3S,4aR,12bR,E)-2-benzylidene-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3-ol (69, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.489 g, 0.915 mmol), DCM (13.5 mL), and MeOH (1.5 mL) was cooled to −78° C. while purging with O2. After about 10 min, ozone was bubbled through the reaction for about 14 min. The solution was purged with oxygen for about 10 min. Polymer bound triphenylphosphine (3 mmol/g, 0.915 g, 3.50 mmol) was added in one portion. The reaction mixture was allowed to warm to rt over about 30 min. After about 3 h, the mixture was filtered rinsing with DCM. The organic volatiles were removed under reduced pressure. The residue was purified on silica gel (40 g) using a gradient of 0-20% EtOAc in heptane. The fractions containing product were combined and concentrated under reduced pressure to afford (3S,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,3,4,4a,5,6,7,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-2(9H)-one; compound with (3R,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,3,4,4a,5,6,7,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-2(9H)-one (70, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.371 g, 88% yield) as an ivory solid. LC/MS, method 2, Rt=2.93 min, MS m/z 461 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.24 (s, 1H), 7.86-7.74 (m, 3H), 7.58 (s, 1H), 7.47-7.35 (m, 2H), 6.62 (s, 1H), 3.27-3.19 (m, 1H), 3.18-3.04 (m, 2H), 3.00-2.90 (m, 1H), 2.41-2.18 (m, 3H), 2.06-1.94 (m, 1H), 1.91-1.74 (m, 3H), 1.46-1.16 (m, 2H), 0.41 (t, J=7.3 Hz, 3H).

reactant | (3R,4aS,12bS,E)-2-benzylidene-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3-ol; compound with (3S,4aR,12bR,E)-2-benzylidene-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3-ol | C(/C1=CC=CC=C1)=C\1/C[C@@]2([C@H](CCCC=3C2=CC=2C=NN(C2C3)C3=CC=C(C=C3)F)C[C@@]1(O)C(F)(F)F)CC.C(/C1=CC=CC=C1)=C\1/C[C@]3([C@@H](CCCC=2C3=CC=3C=NN(C3C2)C2=CC=C(C=C2)F)C[C@]1(O)C(F)(F)F)CC | 2C32H30F4N2O
reactant | DCM | 13.5 mL | C(Cl)Cl | CH2Cl2
reactant | triphenylphosphine | 3.50 mmol, 0.915 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | MeOH | 1.5 mL | CO | CH4O
product | (3S,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,3,4,4a,5,6,7,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-2(9H)-one; compound with (3R,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-hydroxy-3-(trifluoromethyl)-1,3,4,4a,5,6,7,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazol-2(9H)-one | 88% yield | C(C)[C@]12[C@@H](CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)C[C@@](C(C2)=O)(C(F)(F)F)O.C(C)[C@@]23[C@H](CCCC=1C2=CC=2C=NN(C2C1)C1=CC=C(C=C1)F)C[C@](C(C3)=O)(C(F)(F)F)O | 2C25H24F4N2O2
